US07875600B2
2-Amino-6-(2-furyl)pyrimidine-4-carboxylic acid
A suspension of 2-amino-6-(2-furyl)pyrimidine-4-carbonitrile (7.06 g, 37.9 mmol) in water (30 mL) was treated carefully with concentrated sulfuric acid (30 mL), stirred at 100° C. for 2 h, allowed to cool to room temperature and poured onto a mixture of ice (150 g) and water (150 mL). After standing for 1 h the crude product was filtered off, washed with water and MeCN, and dried in air to give the title compound (7.02 g, 90%) as a brown solid; NMR δH (400 MHz, DMSO) 6.71 (1H, dd, J 1.6, 3.6 Hz), 7.04 (2H, br s), 7.30 (1H, d, J 3.6 Hz), 7.36 (1H, s) and 7.94 (1H, d, J 1.2 Hz); Anal. Calc for C9H7N3O3.1.6H2O: C, 46.20; H, 4.39; N, 17.96. Found: C, 46.22; H, 4.22; N, 17.82.

reactant | 2-amino-6-(2-furyl)pyrimidine-4-carbonitrile | 37.9 mmol, 7.06 g | NC1=NC(=CC(=N1)C#N)C=1OC=CC1 | C9H6N4O
reactant | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 30 mL | O | H2O
reactant | water | 150 mL | O | H2O
product | 2-Amino-6-(2-furyl)pyrimidine-4-carboxylic acid | 7.02 g, 90% | NC1=NC(=CC(=N1)C(=O)O)C=1OC=CC1 | C9H7N3O3
